US08084484B2
c) 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid
To a stirred solution of 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid ethyl ester (76 mg) in 90% aq. EtOH was added NaOH (48 mg) at room temperature. After stirred for 16 h at room temperature, the reaction mixture was cooled to room temperature, diluted with water. The resulting aqueous layer was acidified with acetic acid and then extracted with dichloromethane. The combined organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. (58 mg, 86.0%, brown solid)

reactant | 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid ethyl ester | 76 mg | C(C)OC(C(C)C1=CC2=C(NC(O2)=S)C=C1)=O | C12H13NO3S
reactant | NaOH | 48 mg | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid | S=C1OC2=C(N1)C=CC(=C2)C(C(=O)O)C | C10H9NO3S
